US06653299B1
Synthesis of S-acetyl-mercaptoacetylglycylglycylglycine (Compound 21)
A solution of H-Gly-Gly-Gly-OH (1.28 g, 6.76 mmol), S-acetyl-thioglycolic acid pentafluorophenyl ester (Novabiochem, 2 g, 6.76 mmol) and DIPEA (1.14 ml, 6.76 mmol) in a mixture of DMF (25 ml) and water (12 ml), was stirred overnight at room temperature. The reaction mixture was filtered to remove some remaining H-Gly-Gly-Gly-OH, brought to pH2 with 1M aqueous HCl and evaporated to dryness. The residue was triturated with acetone to afford the title compound.

reactant | H-Gly-Gly-Gly-OH | 6.76 mmol, 1.28 g | NCC(=O)NCC(=O)NCC(=O)O | C6H11N3O4
reactant | S-acetyl-thioglycolic acid pentafluorophenyl ester | 6.76 mmol, 2 g | FC1=C(C(=C(C(=C1OC(CSC(C)=O)=O)F)F)F)F | C10H5F5O3S
reactant | DIPEA | 6.76 mmol, 1.14 ml | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 25 ml | CN(C)C=O | C3H7NO
solvent | water | 12 ml | O | H2O
product | S-acetyl-mercaptoacetylglycylglycylglycine | C(C)(=O)SCC(=O)NCC(=O)NCC(=O)NCC(=O)O | C10H15N3O6S
